US08865752B2
Step-3: To a solution of 2-bromo-6-butylbenzo[d]thiazole in acetic acid at 0° C. was added CrO3 in acetic acid. The reaction mixture was allowed to warm to RT and stirred over 2 days. The reaction was neutralized by aq. sodium bicarbonate and extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated, The crude product was purified by preparative TLC to afford 1-(2-bromobenzo[d]thiazol-6-yl)butan-1-one. MS (ESI+) m/z 286.2 [M+2]+

reactant | 2-bromo-6-butylbenzo[d]thiazole | BrC=1SC2=C(N1)C=CC(=C2)CCCC | C11H12BrNS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2-bromobenzo[d]thiazol-6-yl)butan-1-one | BrC=1SC2=C(N1)C=CC(=C2)C(CCC)=O | C11H10BrNOS
